US05516774
N-[4-(4H-Pyrazolo[5,1-c][1,4]benzodiazepin-5(10H)-ylcarbonyl)phenyl]-2-methylbenzamide
To a stirred solution of 3 mmol of 2-methylbenzoyl chloride in 10 ml of methylene chloride is added 5 mmol of triethylamine and 3 mmol of 5,10-dihydro-5-(4-aminobenzoyl)-4H-pyrazolo-[5,1-c][1,4]benzodiazepine. The mixture is stirred at room temperature for 5 hours and is then washed with water, NaHCO3, and brine. The organic layer is dried with Na2SO4, filtered and evaporated in vacuo to give a solid which is purified by flash chromatography on silica gel to give the desired product as a solid, m.p. 142°-146° C.

reactant | 2-methylbenzoyl chloride | 3 mmol | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
reactant | 5,10-dihydro-5-(4-aminobenzoyl)-4H-pyrazolo-[5,1-c][1,4]benzodiazepine | 3 mmol | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)N=CC3)C=C1 | C18H16N4O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(4H-Pyrazolo[5,1-c][1,4]benzodiazepin-5(10H)-ylcarbonyl)phenyl]-2-methylbenzamide | N1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O | C26H22N4O2
